US07034039B2
Tert-butyl[6-(5-cyano-4-methyl-1,3-thiazol-2-yl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.21 g, 0.4 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give 2-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carbonitrile hydrochloride (0.11 g, 91.7%) as crystals.

reactant | Tert-butyl[6-(5-cyano-4-methyl-1,3-thiazol-2-yl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.4 mmol, 0.21 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC(=C(N1)C)C#N)=O)CC(C)C)=O | C30H32N4O3S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carbonitrile hydrochloride | 0.11 g, 91.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC(=C(N1)C)C#N)=O)CC(C)C | InChI=1S/C25H24N4OS.ClH/c1-15(2)14-29-21(12-26)23(17-7-5-4-6-8-17)20-11-18(9-10-19(20)25(29)30)24-28-16(3)22(13-27)31-24;/h4-11,15H,12,14,26H2,1-3H3;1H
